US06548493B1
tert-butyl (±)-cis-2-(2-chloro-4-methoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 90 from tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (121 mg, 0.27 mmol) and corresponding 2-chloro-4-methoxyphenylboronic acid (100 mg, 0.54 mmol), to afford after chromatographic purification the title compound (141 mg, 68%) as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ7.21 (d, 1H, J=8.4 Hz), 6.94-6.99 (m, 3H), 6.82 (dd, 1H, J=2.9 Hz, 8.8 Hz), 3.75-4.00 (m, 7H), 3.60-3.70 (m, 1H), 3.10-3.50 (m, 7H), 2.80-3.00 (m, 1H), 1.70-1.90 (m, 2H), 1.48 (s, 9H) ppm. MS (CI, NH3): 441 (base, M+H).

reactant | tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 0.27 mmol, 121 mg | BrC=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 2-chloro-4-methoxyphenylboronic acid | 0.54 mmol, 100 mg | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
product | tert-butyl (±)-cis-2-(2-chloro-4-methoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | ClC1=C(C=CC(=C1)OC)C=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C25H29ClN2O3
